Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
ACE Inhibitors
 
Attending: ___.
 
Chief Complaint:
Left arm swelling
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ female with Alzheimers, hypothyroid, hypertension 
who
comes in from the memory unit by daughter for evaluation of left
arm swelling. She has had significant left arm swelling since
___, gradually worsening. 

___ the swelling began. Got an ultrasound that did not
reveal a clot at that time. Her swelling improved. However about
a month ago, the swelling worsened. In the last few days it is
started to involve the dorsum of her hand. Per PCP documentation
and description by family member, daughter has been resistant to
bring her to the ER due to concerns about her decompensating in
an unfamiliar environment; PCP insisted that they be seen today
for evaluation of cellulitis versus mass in arm. Was treated 
with
Keflex and clindamycin on outpatient basis without improvement. 

An MRI was done in ___ difficult to assess given
patient unable to stay still but did show lipoma vs.
liposarcoma. No fevers, no muscle aches, no night sweats per
patient's daughter. 

In the ED:
#Initial vital signs were
- 98.8 65 125/57 18 98% RA 
#Exam notable for
- Left upper extremity with intact capillary refill, intact
sensation, intact grip strength, intact active and passive range
of motion. Very prominent left upper extremity edema throughout
upper and lower arm, without any focality or fluctuance or
erythema.
Bilateral lower extremity edema consistent with venous stasis,
chronic, unchanged per daughter  
___ showed  
- wnl CBC and BMP
#Imaging showed  
- U/S: no evidence of DVT in LUE. Subq edema along the length of
the left upper extremity
- Left humerus/forearm XR: diffuse soft tissue swelling without
subcutaneous gas or soft tissue calcifications. Vague 12 x 11mm
lucency within the id humeral diaphysis not associated with
periosteal new bone formation or fracture. 
#Received:
- n/a
#No consults

On arrival to the floor, patient reports some tenderness of the
left arm. Unclear when arm started swelling however. No chest
pain, no sob, no cough. No problems with strength of left
hand/arm but is difficult to move around given pain.
 
Past Medical History:
HYPOTHYROIDISM                                                  
HYPERTENSION                                                    
TOBACCO ABUSE                                                   
?HEPATITIS B                                                     

GASTROESOPHAGEAL REFLUX                                         
ALZHEIMER'S DISEASE                                             
NEPHROLITHIASIS                                                 
IRRITABLE COLON                                                 
AORTIC VALVULAR DISEASE                                         
DJD HIPS   
 
Social History:
___
Family History:
No family history of cancer but she was adopted. 

 
Physical Exam:
ADMISSION PHYSICAL EXAM:
=====================
VS: reviewed in ___  
 GENERAL: NAD  
 HEENT: AT/NC, EOMI, PERRL, anicteric sclera, pink conjunctiva, 
MMM  
 NECK: supple, no LAD noted in axillary region bilaterally or 
supraclavicular region  
 HEART: RRR, S1/S2, no gallops, or rubs. Systolic murmur ___ 
best heard at ___  
 LUNGS: CTAB, no wheezes, rales, rhonchi, breathing comfortably 
without use of accessory muscles  
 ABDOMEN: nondistended, nontender in all quadrants, no 
rebound/guarding  
 EXTREMITIES: no cyanosis, clubbing, or edema  
 PULSES: 2+ DP pulses bilaterally  
 NEURO: A&Ox3, moving all 4 extremities with purpose  
 SKIN: left arm grossly edematous from hand to axilla pitting 
edema noted. Diffuse erythema with increased warmth as well.  

DISCHARGE PHYSICAL EXAM:
======================
VITALS: T 99.8 HR 73 BP 146/66 RR 20 SaO2 94% RA
General: NAD, sitting peacefully in chair by nursing station
HEENT: PERRL, EOMI, MMM
NECK: Supple, no LAD
CV: RRR, S1/S2, III/VI systolic murmur heard best at ___
PULM: unlabored, CTAB
GI: soft, non-tender, non-distended, normoactive BS, no
organomegaly
EXT: left arm markedly edematous, no erythema, wrap
intact, b/l ___ edema to shin
NEURO: non-focal
 
Pertinent Results:
ADMISSION LABS:
=============
___ 07:30PM   GLUCOSE-99 UREA N-14 CREAT-0.8 SODIUM-139 
POTASSIUM-3.8 CHLORIDE-99 TOTAL CO2-26 ANION GAP-18
___ 07:30PM   estGFR-Using this
___ 07:30PM   WBC-6.2 RBC-4.47 HGB-12.1 HCT-38.6 MCV-86 
MCH-27.1 MCHC-31.3* RDW-14.7 RDWSD-46.4*
___ 07:30PM   NEUTS-53.6 ___ MONOS-8.7 EOS-3.1 
BASOS-0.6 IM ___ AbsNeut-3.32 AbsLymp-2.09 AbsMono-0.54 
AbsEos-0.19 AbsBaso-0.04
___ 07:30PM   PLT COUNT-287

PERTINENT LABS:
==============
___ 12:50PM BLOOD CRP-2.8
Blood Culture, Routine (Final ___:    NO GROWTH. 
URINE CULTURE (Final ___:    < 10,000 CFU/mL. 

IMAGING:
=======
Upper ext U/S (___):
IMPRESSION:
1. No evidence of deep vein thrombosis in the left upper 
extremity.
2. Subcutaneous edema along the length of the left upper 
extremity.

CT Chest w/contrast (___):
IMPRESSION:
1. 3.9 cm right middle lobe mass. Primary lung mass is highest 
in the
differential, including carcinoid given the presence of 
calcification. Given
the presence of apparent spiculations and lack of macroscopic 
fat, a hamartoma
is probably less likely. Given the absence of other suspicious 
pulmonary
nodules, a calcifying metastasis such as osteosarcoma or 
chondrosarcoma is
also less likely. Recommend percutaneous biopsy or non urgent 
PET-CT for
further evaluation.
2. Small right and trace left pleural effusions.
3. Small pericardial effusion.
4. Severe calcified coronary atherosclerosis.

MRI Upper extremity w+w/o contrast (___):
IMPRESSION: 
1.  Severe diffuse edema in the subcutaneous fat and skin of the 
left upper
extremity, similar to the prior examination, of unclear 
etiology.  Note is
made that on the CT from ___, there does appear to be 
skin thickening
and edema involving a portion of the left chest wall and left 
breast.  No
enlarged left axillary lymphadenopathy is detected on the ___ CT scan.
2.  No evidence of soft tissue mass or masslike enhancement in 
the left upper
arm.  In particular, no findings concerning for lipoma or 
liposarcoma are
identified.

 
Brief Hospital Course:
___ female with Alzheimer dementia, hypothyroidism, HTN 
who was transferred from memory unit for further evaluation of 
LUE swelling of uncertain etiology.

ACUTE ISSUES:
#) Left upper extremity swelling: MRI at ___ concerning 
for lipoma vs liposarcoma. It was postulated that edema was due 
to impaired drainage, suggesting lymphatic involvement. 
Subsequent  MRI non-diagnostic due to movement. Orthopedic 
surgery preliminarily reviewed MRI and did not detect a 
compressive mass. Vascular surgery shared this opinion and 
ultimately recommended ACE wrap for compression. Orthopedic 
surgery recommended outpatient follow-up with orthopedic 
oncologist, Dr. ___.

#) Lung opacity, right (4 cm): CT concerning for malignancy. 
While biopsy and PET scan were in order, daughter (health care 
proxy) determined workup or definitive therapy would be 
discordant with patient's preferences.

CHRONIC ISSUES:
#) Hypothyroidism: home levothyroxine. 

#) HTN: home verapamil and HCTZ 

#) Alzheimers: home escitalopram and quetiapine

TRANSITIONAL ISSUES:
[]Please keep LUE elevated and in ACE wrap
[]Please facilitate long-term care placement
[]Daughter does not wish to pursue workup of lung lesion
[]Ortho recommended follow up with Dr. ___ in ___ ___ 
clinic re: the LUE swelling.

HCP: ___ (___) 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Escitalopram Oxalate 5 mg PO DAILY 
2. FoLIC Acid 1 mg PO DAILY 
3. Hydrochlorothiazide 25 mg PO DAILY 
4. Levothyroxine Sodium 150 mcg PO TUES, THURS, FRI, SAT, SUN 
5. Levothyroxine Sodium 100 mcg PO MON, WED 
6. Multivitamins 1 TAB PO DAILY 
7. QUEtiapine Fumarate 25 mg PO QHS 
8. QUEtiapine Fumarate 50 mg PO AM AND QHS 
9. Verapamil SR 240 mg PO Q24H 
10. Ibuprofen 400 mg PO BID:PRN Pain - Moderate 

 
Discharge Medications:
1.  QUEtiapine Fumarate 75 mg PO QHS  
2.  QUEtiapine Fumarate 50 mg PO QAM  
3.  Escitalopram Oxalate 5 mg PO DAILY  
4.  FoLIC Acid 1 mg PO DAILY  
5.  Hydrochlorothiazide 25 mg PO DAILY  
6.  Ibuprofen 400 mg PO BID:PRN Pain - Moderate  
7.  Levothyroxine Sodium 150 mcg PO TUES, THURS, FRI, SAT, SUN  
8.  Levothyroxine Sodium 100 mcg PO MON, WED  
9.  Multivitamins 1 TAB PO DAILY  
10.  Verapamil SR 240 mg PO Q24H  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
PRIMARY:
Lymphedema

SECONDARY:
Lung mass

 
Discharge Condition:
Mental Status: Confused - always.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dear Ms. ___,

It was a pleasure taking care of you at ___ 
___.

Why was I in the hospital?
-Your left arm was swollen.

What was done while I was in the hospital?
-Pictures were taken that showed that you did not have a mass or 
clot in your arm.
-A spot was found in your lung that could be cancer.
-After discussion with your daughter, who is your health care 
proxy, it was determined that further workup was not consistent 
with your goals of care.

What should I do when I go home?
-The orthopedic surgeons recommended you see them in clinic. 
-If you have fever, chills, or more swelling, please tell your 
primary doctor or go to the emergency room.

Best wishes, 
 Your ___ team
 
Followup Instructions:
___